US04162270
To practice the process of this invention, phenol, sulfuric acid and a solvent are placed into a reactor, and the mixture is heated at a temperature of about 130° ~ about 220° C. The water resulting from the progress of the reaction is removed by refluxing a mixture of the solvent and water, separating off the water alone in the course of reflux and returning the solvent to the reactor. The solvent to be returned can be partly drawn off from the reaction mixture. When the dehydration reaction has been almost completed, the solvent is substantially completely removed from the system. The solvent is readily removable by distillation suitably reducing the internal pressure of the reactor. The dry solid residue obtained is dissolved in an aqueous solution of alkali, and the solution is treated with active carbon to remove small amounts of colored impurities and then neutralized with an inorganic acid such as H2SO4, HCl, etc. to obtain 4,4'-dihydroxydiphenylsulfone crystals, separating by filtration from the filtrate which contains phenol sulfonic acid as a by-product.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 4,4'-dihydroxydiphenylsulfone | C1=CC(=CC=C1O)S(=O)(=O)C2=CC=C(C=C2)O | C12H10O4S
